* Z:\home\aalmela\scm\git\utn\eaiii\2020\7_Mezcladores\ltspice\mezclador_jfet.asc
J1 N005 N011 N014 2N3819
R1 N016 0 146
V1 N001 0 12
L1 N014 N016 14.46e-9
C1 N014 N016 14.46e-9
C2 N016 0 100e-9
C3 N012 N014 100e-9
V2 N013 0 SINE(0 0.5 11e6)
V3 N009 0 SINE(0 50e-3 10e6)
R2 N010 N009 1e3
C4 N011 N010 100e-9
C5 N011 0 1.591e-9
L2 N011 0 159.15e-9
L3 N001 N005 15.91e-6
C6 N001 N005 1.59e-9
R3 N001 N005 10k
R4 N013 N012 50
R5 N015 0 146
L4 N008 N015 14.46e-9
C7 N008 N015 14.46e-9
C8 N015 0 100e-9
C9 N006 N008 100e-9
V4 N007 0 SINE(0 0.5 11e6)
V5 N002 0 SINE(0 10e-6 10e6)
R6 N003 N002 50
C10 N004 N003 100e-9
C11 N004 0 1.591e-9
L5 N004 0 159.15e-9
R7 N007 N006 50
C12 N004 N008 1p
.model NJF NJF
.model PJF PJF
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.jft
.tran 0 120e-6 100e-6
.backanno
.end
